US07153815B2
4-Trifluoromethyl aniline (0.97 g, 6.0 mmol) was gradually added to acetic acid (3.5 ml), water (1.7 ml) and concentrated hydrochloric acid (1.7 ml) and dissolved, and cooled to 5° C. A solution of sodium nitrate (0.5 g, 7.2 mmol) in water (2 ml) was gradually added thereto at a temperature of 10° C. or less. The resulting solution was gradually added to a mixture of N-(6-chloro-3-pyridylmethyl)-2-cyanoacetic acid amide (1.3 g, 6.0 mmol), sodium acetate (1.23 g, 15.0 mmol), ethanol (30 ml) and 1N aqueous solution of sodium carbonate (40 ml). After stirring at room temperature for 5 hours, water and ethyl acetate were added thereto and subjected to extraction. The organic phase was washed with a saturated brine, and dried on anhydrous sodium sulfate. The residue obtained by filtering and concentrating was purified with a silica gel chromatography to obtain N-(6-chloro-3-pyridylmethyl)-2-cyano-2-(4-trifluoromethylphenyl hydrazono) acetic acid amide (Compound No. 184) (0.12 g, 0.30 mmol, 5%) (Compound No. 185) (1.15 g, 3.00 mmol, 50%). Geometrical isomerism (E/Z) was not determined.

reactant | 4-Trifluoromethyl aniline | 6.0 mmol, 0.97 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | hydrochloric acid | 1.7 ml | Cl | ClH
reactant | sodium nitrate | 7.2 mmol, 0.5 g | [N+](=O)([O-])[O-].[Na+]
reactant | N-(6-chloro-3-pyridylmethyl)-2-cyanoacetic acid amide | 6.0 mmol, 1.3 g | ClC1=CC=C(C=N1)CNC(CC#N)=O | C9H8ClN3O
reactant | sodium acetate | 15.0 mmol, 1.23 g | C(C)(=O)[O-].[Na+]
reactant | sodium carbonate | 40 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 2 ml | O | H2O
solvent | water | 1.7 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | acetic acid | 3.5 ml | C(C)(=O)O | C2H4O2
product | N-(6-chloro-3-pyridylmethyl)-2-cyano-2-(4-trifluoromethylphenyl hydrazono) acetic acid amide | ClC1=CC=C(C=N1)CNC(C(=NNC1=CC=C(C=C1)C(F)(F)F)C#N)=O | C16H11ClF3N5O
